US04898941
Into 100 ml of 5% aqueous solution of sodium hydroxide was dissolved 10 g of 2,2-bis(4-pyrrolidinophenyl)propionic acid. Thereto was added 9.2 g of potassium persulfate and the mixture was reacted with stirring for one hour. The resulting precipitates were collected by filtration and recrystallized from methanol to obtain 7.0 g (yield 80%) of 1,1-bis(4-pyrrolidinophenyl)ethylene, having a melting point of 221°~223° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,2-bis(4-pyrrolidinophenyl)propionic acid | 10 g | N1(CCCC1)C1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)N1CCCC1 | C23H28N2O2
reactant | potassium persulfate | 9.2 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
product | 1,1-bis(4-pyrrolidinophenyl)ethylene | 7.0 g, yield 80% | N1(CCCC1)C1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N1CCCC1 | C22H26N2
